US06545161B2
Preparation of 4-chloro-6-fluoro-3-methoxy-2-nitrophenyl isocyanate
4-Chloro-6-fluoro-3-methoxy-2-nitroaniline (0.5 g, 2.27 mmol) was dissolved in anhydrous toluene (30 ml) and triethylamine (0.46 g, 4.54 mmol) was added. This solution was slowly added to a stirred solution of triphosgene (0.67 g, 2.27 mmol) in toluene (30 ml) and the solution refluxed for 2 hr. The solution was cooled and filtered. Clear filtrate was evaporated in vacuo to afford the title compound. 1H NMR (CDCl3, 3.00 MHz) 3.96 (3H, s), 7.38 (1H, d, J=8.8 Hz) ppm.

reactant | 4-Chloro-6-fluoro-3-methoxy-2-nitroaniline | 2.27 mmol, 0.5 g | ClC1=C(C(=C(N)C(=C1)F)[N+](=O)[O-])OC | C7H6ClFN2O3
reactant | triethylamine | 4.54 mmol, 0.46 g | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 2.27 mmol, 0.67 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-6-fluoro-3-methoxy-2-nitrophenyl isocyanate | ClC1=C(C(=C(C(=C1)F)N=C=O)[N+](=O)[O-])OC | C8H4ClFN2O4
